data/polar.json
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[cH:12][cH:5][c:19]2[c:4]([cH:26]1)[CH:27]([Zn-:16]([Cl:14])[Cl:15])[CH:20]=[CH:9]2.[cH:2]1[cH:11][cH:3][c:6]2[c:13]([o+:7][c:10](-[c:24]3[cH:21][cH:17][cH:25][cH:18][cH:22]3)[cH:8][cH:23]2)[cH:28]1>>[Cl:14][Zn:16][Cl:15].[cH:1]1[cH:12][cH:5][c:19]2[c:4]([cH:26]1)[CH:27]([CH:23]1[c:6]3[cH:3][cH:11][cH:2][cH:28][c:13]3[O:7][C:10]([c:24]3[cH:21][cH:17][cH:25][cH:18][cH:22]3)=[CH:8]1)[CH:20]=[CH:9]2", "epd": [["Sigma-/Sigma+", [27, 16], [27, 23]], ["Pi-/Pi+", [23, 8], [8, 10]], ["Pi-/LP+", [10, 7], [7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:8]1[cH:6][c:9]([N+:16](=[O:5])[O-:24])[cH:18][c:7]2[c:28]1[n:14][o:27][n+:33]2[O-:3])[O-:12].[cH:4]1[cH:19][cH:10][c:25]([C:21](=[C:13]2[N:15]([CH3:30])[C:22]([CH3:29])=[C:32]([CH3:31])[S:23]2)[O:26][CH3:17])[cH:11][cH:20]1>>[N+:1](=[O:2])([C:8]1=[CH:6][C:9](=[N+:16]([O-:5])[O-:24])[CH:18]([C:21]([c:13]2[n+:15]([CH3:30])[c:22]([CH3:29])[c:32]([CH3:31])[s:23]2)([c:25]2[cH:10][cH:19][cH:4][cH:20][cH:11]2)[O:26][CH3:17])[c:7]2[c:28]1[n:14][o:27][n+:33]2[O-:3])[O-:12]", "epd": [["LP-/Pi+", [15], [13, 15]], ["Pi-/Sigma+", [21, 13], [21, 18]], ["Pi-/Pi+", [18, 9], [9, 16]], ["Pi-/LP+", [16, 5], [5]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:6]1([Cl:23])=[C:7]([Cl:24])[C:10](=[O:12])[C:18]([C:25]#[N:27])=[C:19]([C:26]#[N:28])[C:9]1=[O:11].[cH:1]1[cH:8][cH:5][c:14]2[c:4]([cH:13]1)[CH2:22][CH:16]=[C:17]2[N:15]1[CH2:20][CH2:3][CH2:2][CH2:21]1>>[cH:1]1[cH:8][cH:5][c:14]2[c:4]([cH:13]1)[CH2:22][CH:16]([C:18]1([C:25]#[N:27])[C:10](=[O:12])[C:7]([Cl:24])=[C:6]([Cl:23])[C:9]([O-:11])=[C:19]1[C:26]#[N:28])[C:17]2=[N+:15]1[CH2:20][CH2:3][CH2:2][CH2:21]1", "epd": [["LP-/Pi+", [15], [17, 15]], ["Pi-/Sigma+", [16, 17], [16, 18]], ["Pi-/Pi+", [18, 19], [19, 9]], ["Pi-/LP+", [9, 11], [11]]]}
{"reaction_name": "Darzens condensation", "rsmi": "[O-:4][CH3:6].[O:1]=[C:10]([O:3][CH3:9])[CH:5]([Cl:2])[H:12].[O:7]=[CH:11][CH3:8]>>[Cl-:2].[O:1]=[C:10]([O:3][CH3:9])[CH:5]1[O:7][CH:11]1[CH3:8].[O:4]([CH3:6])[H:12]", "epd": [["LP-/Sigma+", [4], [4, 12]], ["Sigma-/Sigma+", [5, 12], [5, 11]], ["Pi-/LP+", [7, 11], [7]], ["LP-/Sigma+", [7], [5, 7]], ["Sigma-/LP+", [2, 5], [2]]]}
{"reaction_name": "Cyanide addition to an iminium ion", "rsmi": "[C-:6]#[N:7].[CH:1]([CH3:2])=[N+:5]([CH3:3])[CH3:4]>>[CH:1]([CH3:2])([N:5]([CH3:3])[CH3:4])[C:6]#[N:7]", "epd": [["LP-/Sigma+", [6], [1, 6]], ["Pi-/LP+", [1, 5], [5]]]}
{"reaction_name": "Alkoxybenziodoxole oxidation", "rsmi": "[CH:1]([O:2][H:3])([H:4])[CH3:5].[CH3:14][C:12](=[O:13])[O:11][I:10]1[O:9][C:8](=[O:7])[c:20]2[cH:19][cH:18][cH:17][cH:16][c:15]21>>[CH:1](=[O:2])[CH3:5].[O:7]=[C:8]([O:9][H:3])[c:20]1[cH:19][cH:18][cH:17][cH:16][c:15]1[I:10].[CH3:14][C:12](=[O:13])[O:11][H:4]", "epd": [["Sigma-/Pi+", [1, 4], [1, 2]], ["Sigma-/Sigma+", [2, 3], [3, 9]], ["Sigma-/LP+", [9, 10], [10]], ["Sigma-/Sigma+", [10, 11], [4, 11]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[Li+:16].[c:1]1([CH3:31])[o:20][c:5]([B-:24]23[O:2][CH2:12][C:9]([CH3:8])([CH2:13][O:3]2)[CH2:14][O:4]3)[cH:10][cH:27]1.[cH:6]1[cH:19][cH:7][c:11]2[c:21]([o+:15][c:18](-[c:29]3[cH:25][cH:22][cH:30][cH:23][cH:26]3)[cH:17][cH:28]2)[cH:32]1>>[Li+:16].[O:2]1[CH2:12][C:9]2([CH3:8])[CH2:13][O:3][B:24]1[O:4][CH2:14]2.[c:1]1([CH3:31])[o:20][c:5]([CH:28]2[c:11]3[cH:7][cH:19][cH:6][cH:32][c:21]3[O:15][C:18]([c:29]3[cH:25][cH:22][cH:30][cH:23][cH:26]3)=[CH:17]2)[cH:10][cH:27]1", "epd": [["Sigma-/Sigma+", [5, 24], [5, 28]], ["Pi-/Pi+", [28, 17], [17, 18]], ["Pi-/LP+", [18, 15], [15]]]}
{"reaction_name": "Koenigs–Knorr glycosylation", "rsmi": "[O:1]1[CH:3]([Br:8])[CH2:2][CH2:7][CH2:4][CH2:6]1.[O:5]([CH3:9])[H:10]>>[Br:8][H:10].[O:1]1[CH:3]([O:5][CH3:9])[CH2:2][CH2:7][CH2:4][CH2:6]1", "epd": [["LP-/Sigma+", [5], [3, 5]], ["Sigma-/LP+", [3, 8], [8]], ["LP-/Sigma+", [8], [8, 10]], ["Sigma-/LP+", [5, 10], [5]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:2]([N+:4]12[CH2:10][CH2:19][N+:9]([F:3])([CH2:20][CH2:11]1)[CH2:21][CH2:12]2)[Cl:22].[CH:1]([C:13](=[O:14])[c:16]1[cH:5][cH:24][c:15]([N:23]([CH3:17])[CH3:18])[cH:25][cH:6]1)=[S:26]([CH3:7])[CH3:8]>>[CH2:2]([N+:4]12[CH2:10][CH2:19][N:9]([CH2:20][CH2:11]1)[CH2:21][CH2:12]2)[Cl:22].[CH:1]([F:3])([C:13](=[O:14])[c:16]1[cH:5][cH:24][c:15]([N:23]([CH3:17])[CH3:18])[cH:25][cH:6]1)[S+:26]([CH3:7])[CH3:8]", "epd": [["Pi-/Sigma+", [1, 26], [1, 3]], ["Sigma-/LP+", [3, 9], [9]]]}
